US07642264B2
(RS)-1-(3-{4-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonyl)-pyrrolidin-3-ol
To a cooled (ice-water bath) and stirred mixture of (RS)-3-pyrrolidinol (0.27 g, 3.0 mmol), triethylamine (0.29 ml, 2.1 mmol) and THF (4 ml) was added drop wise a solution of 3-{4-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonyl chloride hydrochloride (example I.1) (0.58 g, 1.0 mmol) in THF (6 ml). The mixture was allowed to stir at room temperature for 16 h. Purification of the reaction mixture by flash chromatography on silica gel (ethyl acetate/heptane) and crystallization (dichloromethane/MeOH/hexane) yielded the title compound as a white solid (0.49 g, 88%). MS (ISP) 594.6 [(M+H)+]; mp 234° C.

reactant | (RS)-3-pyrrolidinol | 3.0 mmol, 0.27 g | N1CC(CC1)O | C4H9NO
reactant | triethylamine | 2.1 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | 3-{4-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonyl chloride hydrochloride | 1.0 mmol, 0.58 g | Cl.FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=NC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (RS)-1-(3-{4-[4-Trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonyl)-pyrrolidin-3-ol | 0.49 g, 88% | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=NC=C1)C=1C=C(C=CC1)S(=O)(=O)N1CC(CC1)O)(F)F | C27H20F6N4O3S
